US07786308B2
To 8-benzyl-4-hydroxy-1-phenyl-1,8-diazaspiro[4.5]decan-2-one (400 mg, 1.19 mmol) in pyridine (10 mL) was added thionyl chloride (0.26 g, 3.57 mmol) at 0° C. under N2. The mixture was heated to 50° C. for 5 hours. The solvent was removed under reduced pressure. The residue was dissolved in EtOAc (50 mL) and washed with sat aqueous NaHCO3. The organic layer was separated, dried over Na2SO4 and evaporated to give crude 8-benzyl-1-phenyl-1,8-diaza-spiro[4.5]dec-3-en-2-one, which was purified by column (Petroleum ether/EtOAc 4:1) to give 8-benzyl-1-phenyl-1,8-diaza-spiro[4.5]dec-3-en-2-one. 1H NMR (300 MHz, MeOD) δ 7.89 (d, J=6.0 Hz, 1H), 7.44-7.52 (m, 3H), 7.17-7.27 (m, 5H), 7.14-7.17 (m, 2H), 6.26 (d, J=6.3 Hz, 1H) 3.54 (s, 2H), 2.87-2.91 (m, 2H), 2.35-2.44 (m, 2H), 1.99-2.09 (m, 2H), 1.59-1.64 (m, 2H).

reactant | 8-benzyl-4-hydroxy-1-phenyl-1,8-diazaspiro[4.5]decan-2-one | 1.19 mmol, 400 mg | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC=CC=C2)=O)O)CC1 | C21H24N2O2
reactant | thionyl chloride | 3.57 mmol, 0.26 g | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 8-benzyl-1-phenyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | C(C1=CC=CC=C1)N1CCC2(C=CC(N2C2=CC=CC=C2)=O)CC1 | C21H22N2O
